US06667312B2
Using the general method of Example 1 Part D, N4-[5-(phenylthio)pentyl]quinoline-3,4-diamine (5.1 g, 15.1 mmol) was cyclized using triethyl orthoformate (2.46 g, 16.6 mmol) in the presence of a catalytic amount of pyridine hydrochloride to provide 1-[5-(phenylthio)pentyl]-1H-imidazo[4,5-c]quinoline as a yellow solid.

reactant | N4-[5-(phenylthio)pentyl]quinoline-3,4-diamine | 15.1 mmol, 5.1 g | C1(=CC=CC=C1)SCCCCCNC1=C(C=NC2=CC=CC=C12)N | C20H23N3S
reactant | triethyl orthoformate | 16.6 mmol, 2.46 g | C(OCC)(OCC)OCC | C7H16O3
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | 1-[5-(phenylthio)pentyl]-1H-imidazo[4,5-c]quinoline | C1(=CC=CC=C1)SCCCCCN1C=NC=2C=NC=3C=CC=CC3C21 | C21H21N3S
